US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 1.0 mmol) in NMP (1 mL) were added powdered KOH (392 mg, 7.0 mmol) and 3-vinyl-benzo[b]thiophene (320 mg, 2.0 mmol). The reaction mixture was stirred at 90° C. for 5 h. The reaction mixture was diluted with water (15 mL) and extracted with EtOAc (3×20 mL). The combined organic layer was washed with water (5×25 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (3% MeOH-DCM) followed by reverse phase HPLC to yield 5-(2-benzo[b]thiophen-3-yl-ethyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CDCl3, freebase) δ (ppm): 7.82 (d, 1H), 7.6 (d, 1H), 7.38 (m, 2H), 7.2 (m, 2H), 7.0 (d, 1H), 6.93 (s, 1H), 4.3 (t, 2H), 3.62 (s, 2H), 3.5 (s, 3H), 3.21 (t, 2H), 2.63 (t, 2H), 2.41 (m, 5H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.0 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 7.0 mmol, 392 mg | [OH-].[K+]
reactant | 3-vinyl-benzo[b]thiophene | 2.0 mmol, 320 mg | C(=C)C=1C2=C(SC1)C=CC=C2 | C10H8S
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 5-(2-benzo[b]thiophen-3-yl-ethyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | S1C2=C(C(=C1)CCN1C3=C(C=4C=C(C=CC14)C)CN(CC3)C)C=CC=C2 | C23H24N2S
